US06555552B2
(1R*,5S*,6R*)-8-Benzyl-6-cyano-1-phenyl-8-azabicyclo[3.2.1]octan-2-one
Palladium hydroxide (20%) (700 mg) was added to a solution of (1R*,5S*,6R*)-8-benzyl-6-cyano-1-phenyl-8-azabicyclo[3.2.1]oct-3-ene-2-one (Description 29; 7.1 g, 22.6 mmol) in methanol (100 ml). The mixture was transferred to the Parr™ apparatus and hydrogenated at 45 psi for 20 minutes. The mixture was filtered through Celite™ and the filtrate concentrated in vacuo. The residue was partitioned between ethyl acetate and brine. The organic layer was separated, dried (MgSO4), filtered and concentrated to yield the title compound (6.9 g, 96%).

reactant | (1R*,5S*,6R*)-8-benzyl-6-cyano-1-phenyl-8-azabicyclo[3.2.1]oct-3-ene-2-one | 22.6 mmol, 7.1 g | C(C1=CC=CC=C1)N1[C@@]2(C(C=C[C@H]1[C@@H](C2)C#N)=O)C2=CC=CC=C2 | C21H18N2O
solvent | methanol | 100 ml | CO | CH4O
catalyst | Palladium hydroxide | 700 mg | [OH-].[Pd+2].[OH-]
product | (1R*,5S*,6R*)-8-Benzyl-6-cyano-1-phenyl-8-azabicyclo[3.2.1]octan-2-one | 6.9 g, 96% | C(C1=CC=CC=C1)N1[C@@]2(C(CC[C@H]1[C@@H](C2)C#N)=O)C2=CC=CC=C2 | C21H20N2O
